US06956050B2
STEP 5. phenyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate
A solution of tert-butyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate (1.1 g, 2.6 mmol) in 10% HCl-MeOH (20 mL) was heated at 50° C. for 2 h. After cooling, the volatile components were removed by evaporation and the resulting amorphous was dried under reduced pressure. Then, the amorphous was suspended in dichloromethane at 0° C. To the cooled mixture was added triethylamine (1.4 mL, 10 mmol) and phenyl chloroformate (380 μL, 3.0 mmol). After 1 h, the reaction mixture was partitioned between ethyl acetate (30 mL) and water (10 mL). The aqueous phase was extracted with ethyl acetate (3×30 mL) and the combined organic phase was dried (MgSO4) and concentrated under reduced pressure. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (gradient elution from 3:1 to 2:1) afforded 924 mg (85%) of the title compound as colorless amorphous. MS (ESI) m/z 430 [M+H]+.

reactant | tert-butyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | 2.6 mmol, 1.1 g | C(C)C=1N(C=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C24H28FN3O2
reactant | triethylamine | 10 mmol, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 3.0 mmol, 380 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | HCl MeOH | 20 mL | Cl.CO
product | phenyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | 924 mg, 85% | C(C)C=1N(C=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O | C26H24FN3O2
